Square Wave 8.2us (Steady)

Vsource 2 0 PULSE(0 5 0 1n 1n 4.1u 8.2u)
R1 1 0 820
C1 2 1 1u

.tran 0.1u 5ms

.control
    run
    wrdata sq1_steady.txt v(1) v(2)
.endc

.end
